US06114558
Following the same general procedure described on Example 1, a flask was charged with one mol (218 gm) of 3,3,3-trifluoropropyltrimethoxysilane was added to one mol of 2-ethylpiperdinylmagnesium chloride, the salt having been prepared in situ by adding 2-ethylpiperidine (120 g, 1.05 mol) to isopropylmagnesium chloride (1 mol) in 500 ml of tetrahydrofuran. The reaction was mildly exothermic and the temperature rose to 45° C. at the end of the addition time of one hour. The reaction mixture was refluxed at the pot temperature of 70° C. for one hour and then cooled to room temperature. The 3,3,3-trifluoropropyl(2-ethylpiperidino)dimethoxysilane was filtered under nitrogen atmosphere from the magnesium methoxychloride. The filter cake was washed with ether (2×200 ml) to obtain the residual product. The solvent was removed by distillation to a pot temperature of 100° C. The residue was distilled under vacuum to yield 263 g of 3,3,3-trifluoropropyl(2-ethylpiperidino)dimethoxysilane as a colorless oil (purity>98%); bp 70° C./0.1 mm. The total yield was 88% of theoretical.

reactant | 3,3,3-trifluoropropyltrimethoxysilane | one mol, 218 gm | FC(CC[Si](OC)(OC)OC)(F)F | C6H13F3O3Si
reactant | 2-ethylpiperdinylmagnesium chloride | one mol | C(C)C1N(CCCC1)[Mg]Cl
reactant | 2-ethylpiperidine | 1.05 mol, 120 g | C(C)C1NCCCC1 | C7H15N
reactant | isopropylmagnesium chloride | 1 mol | C(C)(C)[Mg]Cl
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 3,3,3-trifluoropropyl(2-ethylpiperidino)dimethoxysilane | 263 g, yield was 88% | FC(CC[Si](OC)(OC)N1C(CCCC1)CC)(F)F | C12H24F3NO2Si
